US06686462B2
Preparation of Sodium Methyl 1-eicosanyloxycarbonylphosphonate (Formula VII: R═CH3(CH2)19—, R1═CH3, R2═Na)
Demethylation of dimethyl 1-eicosanyloxycarbonylphosphonate with NaI was carried out as described in Example 8 above except for the solvent, which was a mixture of DMF (3 mL), THF (8 mL), and acetone (2 mL); yield 0.86 g (84%); mp 95-96° C.; IR (KBr): υ 2960, 2930, 2860, 1735, 1470, 1235, 1220 cm−1; 1H NMR (CDCl3+CD2OD) δ0.8-1.8 (m, 39H, CH3(CH2)18), 3.8 (d, 3H, P(ONa)(OCH3)), 4.2 (t, 2H, CH2O). Anal. Calcd. for C22H44O5NaP: C, 59.69; H, 10.04; N, 5.19; P, 7.00. Found: C, 59.94; H, 10.00; Na, 5.19; P, 7.06.

reactant | dimethyl 1-eicosanyloxycarbonylphosphonate | C(CCCCCCCCCCCCCCCCCCC)OC(=O)P(OC)(OC)=O | C23H47O5P
reactant | NaI | [Na+].[I-]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | KBr | [K+].[Br-]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | Sodium Methyl 1-eicosanyloxycarbonylphosphonate | C(CCCCCCCCCCCCCCCCCCC)OC(=O)P(OC)([O-])=O.[Na+] | InChI=1S/C22H45O5P.Na/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-27-22(23)28(24,25)26-2;/h3-21H2,1-2H3,(H,24,25);/q;+1/p-1
